US05219848
A suspension of the dihydroxyphthalimide from e) (350 mg) in diphenyldichloromethane (4 g) was heated at 160° C. for 3 hours. The resultant solution was cooled and washed with petroleum ether (3×10 ml). The petrol phase separated to give a brown oil which was collected and triturated under diethyl ether (5 ml) to give as a chestnut brown solid, diphenylmethylenedioxyphthalimide (300 mg); NMR (DMSO-d6) 7.5(m,12H); 11.05(s,1H). Cooling of the petrol phase afforded a second fraction of the phthalimide (250 mg).

reactant | dihydroxyphthalimide | OC=1C(=C2C(C(=O)NC2=O)=CC1)O | C8H5NO4
reactant | diphenyldichloromethane | 4 g | C1(=CC=CC=C1)C(Cl)(Cl)C1=CC=CC=C1 | C13H10Cl2
product | diphenylmethylenedioxyphthalimide | 300 mg | C1(=CC=CC=C1)C1(OC2=C3C(C(=O)NC3=O)=CC=C2O1)C1=CC=CC=C1 | C21H13NO4
